US06312759B1
(Synthesis of 1,1,2,2,3,3,4-heptafluorocyclopentane)
Octafluorocyclopentane (at a purity of 99.9%, 42.4 g, 200 mmol) and 5% palladium carbon (2.12 g) were charged in a 70 ml-autoclave fitted with an agitator, for hydrogenation a hydrogen pressure of 6 kg/cm2 at 50° C. Fifteen hours later when hydrogen consumption was completely ceased, heating was terminated to stop the reaction. After sufficient neutralization with saturated sodium bicarbonate solution, the organic layer was separated, followed by addition of 200 ml of an aqueous sodium carbonate solution at a concentration of 1 mol. The resulting mixture was agitated at 30° C. for 10 hours. The reaction solution was separated into two layers; the resulting organic layer was again charged, together with 5% palladium carbon (1.78 g) and 1 g of tridecane, in a 70 ml-autoclave, for hydrogenation at 50° C. under a hydrogen pressure of 6 kg/cm2. When hydrogen absorption was ceased 15 hours later, the reaction was terminated in the same manner as described above; then, the resulting solution was neutralized with saturated sodium bicarbonate solution, followed by distillation, to recover 1,1,2,2,3,3,3,4-heptafluorocyclopentane (at a purity of 99.0%; 34.0 g).

reactant | Octafluorocyclopentane | FC1(C(C(C(C1)(F)F)(F)F)(F)F)F | C5H2F8
reactant | hydrogen | [H][H] | H2
catalyst | palladium carbon | 2.12 g | [C].[Pd]
product | 1,1,2,2,3,3,4-heptafluorocyclopentane | FC1(C(C(C(C1)F)(F)F)(F)F)F | C5H3F7
